US08003662B2
Step H: Preparation of 6-(3-fluoro-4-(2-(4-(morpholine-4-carbonyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one:
A suspension of 6-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one (0.035 g, 0.060 mmol), 4-(morpholine-4-carbonyl)phenylboronic acid (0.017 g, 0.0721 mmol), Pd(PPh3)4 (0.003 g, 0.003 mmol) and lithium chloride (0.010 g, 0.240 mmol) in dioxane (1 mL) and 2M aqueous Na2CO3 (1 mL) was stirred at 100° C. for 50 minutes. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash column chromatography, eluting with 20:1 CH2Cl2/MeOH. The product was obtained (23 mg; 59%) as a pale yellow solid. 1H-NMR (400 MHz, CDCl3) δ 8.51 (d, 1H), 8.01 (s, 1H), 7.85-7.79 (m, 3H), 7.73-7.65 (m, 3H), 7.55-7.49 (m, 3H), 7.46 (m, 2H), 7.30 (m, 1H), 7.22, (m, 1H), 6.59 (dd, 1H), 4.33 (m, 4H), 3.95-3.36 (m, 8H). LRMS (APCI pos) m/e 646 (M+1).

reactant | 6-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | 0.060 mmol, 0.035 g | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)C2=CN=C1N(C2=O)CCN1C1=CC=CC=C1 | C25H16FIN4O2S
reactant | 4-(morpholine-4-carbonyl)phenylboronic acid | 0.0721 mmol, 0.017 g | N1(CCOCC1)C(=O)C1=CC=C(C=C1)B(O)O | C11H14BNO4
reactant | lithium chloride | 0.240 mmol, 0.010 g | [Cl-].[Li+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.003 mmol, 0.003 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-fluoro-4-(2-(4-(morpholine-4-carbonyl)phenyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)C(=O)N2CCOCC2)C2=CN=C1N(C2=O)CCN1C1=CC=CC=C1 | C36H28FN5O4S
